US05532248
17-Ethyl-1,14-dihydroxy-12-[2'-(3"-methoxy-4"-p-fluorophenpropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-p-fluorocinnamyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (22 mg in 2 ml ethanol) was added 6 mg of 5% rhodium on carbon catalyst. The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 45 minutes, the mixture was filtered over Celite, concentrated and purified by preparative TLC on silica gel (ethyl acetate:hexane (1:2)+1% methanol) to give the title compound (7.5 mg).

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-p-fluorocinnamyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo-[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 2 ml, 22 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC=CC2=CC=C(C=C2)F)OC)C)C)O)=O | C52H76FNO12
reactant | hydrogen | [H][H] | H2
catalyst | rhodium on carbon | 6 mg | [Rh] | Rh
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(3"-methoxy-4"-p-fluorophenpropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 7.5 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCCCC2=CC=C(C=C2)F)OC)C)C)O)=O | C52H78FNO12
